US04602006
5(E)-(3-Trimethylsilylprop-2-ynylidene)-tetrahydro-2-furanone
To a solution of 5(E)-iodomethylidenetetrahydro-2-furanone (820 mg), palladium (II) acetate (40 mg) and triphenylphosphine (80 mg) in 5 ml of triethylamine under argon was added 42 ml of trimethylsilylacetylene. The solution was refluxed for 4 hours and then partitioned between 150 ml of methylene chloride and 50 ml of water. The methylene chloride layer, dried over magnesium sulphate, was evaporated to an oil. This oil was purified by column chromatography on silica gel (10% ethyl acetate:petrolium ether, IR: 2130, 1820, 1762 cm-1.

reactant | 5(E)-iodomethylidenetetrahydro-2-furanone | 820 mg | I\C=C\1/CCC(O1)=O | C5H5IO2
reactant | triphenylphosphine | 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | 42 ml | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5(E)-(3-Trimethylsilylprop-2-ynylidene)-tetrahydro-2-furanone | C[Si](C#C\C=C\1/CCC(O1)=O)(C)C | C10H14O2Si
